US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
To a solution of N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (0.166 g, 0.26 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate (0.157 g, 0.390 mmol), Pd(Ph3P)4 (0.015 g, 0.013 mmol), and K2CO3 (0.144 g, 1.040 mmol). This mixture was heated in a microwave at 130° C. for 15 min. The organic layer was separated, filtered, concentrated, and purified with a Gilson HPLC (with 0.1% TFA). Before the sample was concentrated with GeneVav EZ-2, TFA (5 drops) was added to each tube (12 mL). The resultant mixture was concentrated, purified with a Gilson HPLC (with 0.1% TFA), concentrated, and basified with an amino cartridge to afford 0.0738 g (39%) of the title compound. LC-MS m/z 732 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.36-1.52 (m, 8 H) 1.81-1.93 (m, 4 H) 2.09 (d, J=11.54 Hz, 2 H) 2.62-2.70 (m, 2 H) 2.87-2.98 (m, 2 H) 3.16 (q, 2 H) 3.19-3.30 (m, 1 H) 3.32-3.39 (m, J=12.55 Hz, 2 H) 3.62-3.71 (m, 2 H) 3.99-4.07 (m, 2 H) 4.29-4.40 (m, J=4.27, 4.27 Hz, 1 H) 4.48 (q, J=7.11 Hz, 2 H) 4.60 (s, 2 H) 4.68-4.75 (m, 2 H) 7.14 (dd, J=10.54, 8.53 Hz, 1 H) 7.18-7.26 (m, 1 H) 7.33-7.44 (m, 4 H) 7.44-7.50 (m, J=7.53, 2.26 Hz, 1 H) 7.59 (t, J=7.78 Hz, 1 H) 8.01-8.08 (m, 2 H) 8.28 (s, 1 H) 8.39 (s, 1 H).

reactant | N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.26 mmol, 0.166 g | BrC=1C=C(C=CC1F)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrFN6O3
reactant | 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate | 0.390 mmol, 0.157 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36BNO4
reactant | K2CO3 | 1.040 mmol, 0.144 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.013 mmol, 0.015 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.0738 g, 39% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CC2CCNCC2)CC | C43H50FN7O3
